US08471005B2
1259h. Into a 8-dram vial, N-{2-[2-Hydroxy-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide (9.0E1 mg, 0.19 mmol), N,N-Dimethylformamide (0.70 mL, 9.0 mmol) N,N-Diisopropylethylamine (0.101 mL, 0.581 mmol) and N-Phenylbis(trifluoromethanesulphonimide) (83.0 mg, 0.232 mmol) were added. The reaction mixture was stirred at room temperature for one hour. 2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetamide (102 mg, 0.387 mmol) was added. The reaction was heated at 120° C. for 3 hours. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and NH3 in methanol as eluant (2 to 15% NH3 in methanol). The collected fractions afforded 2-(4-{4-[7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxy-phenyl}-piperidin-1-yl)-acetamide as a red oil (89 mg, 65%)

reactant | N-{2-[2-Hydroxy-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 0.19 mmol, 9.0E1 mg | OC1=NN2C(C=N1)=C(C=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)OCOCC[Si](C)(C)C | C20H28N4O5SSi
reactant | N,N-Dimethylformamide | 9.0 mmol, 0.70 mL | CN(C=O)C | C3H7NO
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.232 mmol, 83.0 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetamide | 0.387 mmol, 102 mg | NC1=C(C=C(C=C1)C1CCN(CC1)CC(=O)N)OC | C14H21N3O2
product | 2-(4-{4-[7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxy-phenyl}-piperidin-1-yl)-acetamide | 89 mg, 65% | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC(=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCN(CC2)CC(=O)N)OC)OCOCC[Si](C)(C)C)C | C34H47N7O6SSi
